US07053255B2
(2) Synthesis of 9-bromo-10-(4-formylphenyl)anthracene
9-(4-Formylphenyl)anthracene (3.3 g, 12 mmole) was suspended in anhydrous DMF (40 ml). To the resultant suspension, a solution (8 ml) of NBS (2.3 g, 13 mmole, 1.1 eq) in anhydrous DMF was added and the obtained mixture was stirred at the room temperature for 10 hours and left standing for one night. After the reaction mixture was diluted with water (50 ml), the solid was separated by filtration and washed with methanol and a yellow solid (3.9 g, 90%) was obtained.

reactant | 9-(4-Formylphenyl)anthracene | 12 mmole, 3.3 g | C(=O)C1=CC=C(C=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C21H14O
reactant | NBS | 13 mmole, 8 ml, 2.3 g, 1.1 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 9-bromo-10-(4-formylphenyl)anthracene | 3.9 g, 90% | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=C(C=C1)C=O | C21H13BrO
